2168-02-16 06:53:00 Physician Resident Progress Note
Chief Complaint: 71-year-old female with a history of diabetes mellitus
   type II, hypertension, is transfered from outside hospital s/p cardiac
   arrest.
   24 Hour Events:
   arctic sun cooling protocol
   arterial line placed
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-16**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 33.4
C (92.2
   Tcurrent: 33.4
C (92.2
   HR: 47 (47 - 72) bpm
   BP: 119/61(83) {114/59(80) - 119/64(86)} mmHg
   RR: 16 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
             373 mL
   PO:
             TF:
   IVF:
   373 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     80 mL
   Urine:
   80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    293 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.46/30/180/16/0
   Ve: 7 L/min
   PaO2 / FiO2: 450
   Physical Examination
   General Appearance: sedated, limited exam
   Eyes / Conjunctiva: Pupils dilated, minimal response to light
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), difficult to hear, unable
   to hear murmur rub or gallop
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ), coarse
   Abdominal: Soft, unable to assess
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   209 mg/dL------6 humalog for BS- 209
        [image002.jpg]
                             [**2168-2-16**]  01:40 AM
                             [**2168-2-16**]  05:57 AM
   TCO2
   20
   22
   Glucose
   209
   Other labs: Lactic Acid:1.3 mmol/L
   Imaging: CXR: Standard positioning of the endotracheal tube. Left
   basilar
   atelectasis.
   CT head: prelim read - No ICH. Slight ill-definition of grey-white
   junction, may be technical though close follow-up suggested
   ECG: LBBB
   Assessment and Plan
   71-year-old female with a history of diabetes mellitus type II,
   hypertension, is transfered from outside hospital s/p cardiac arrest.
   .
   # s/p cardiac arrest:  Currently hemodynamically stable.  Based on
   history, appears that patient PEA arrested for unclear reasons at Rehab
   facility and recieved 4 rounds of Epinephine.  Strips from her arrest
   are not available.  The patient is stable hemodynamically with MAP > 60
   and not requiring pressors.  The patient has severe 3V CAD that was
   being considered for CABG in the future after pt's spinal stenosis
   surgery.  Unclear what patient's neurologial status is at this point.
   She has some non-purposeful movements of her LEs.  [**Month (only) 11**] be secondary to
   ischemia. Worrisome for instent thrombosis causing ischemia leading to
   arrhythmia.
   - Arctic sun protocol
   - EEG in AM
   - TTE in AM
   - f/u final CT head read
   - Consult Neuro in AM
   - Fent/Midaz for sedation
   - heparin gtt
   .
   # coronary artery disease:  s/p STEMI with cardiac cath with
   multivessel CAD s/p BMS x 3 to mid to distal L circumflex.  Patient is
   currently HD stable.
   - Continue ASA
   - Continue plavix
   - Continue statin
   - heparin gtt
   .
   # Pump:  Slightly volume overloaded on exam, likely from volume
   resusitation at OSH.  EF 40-45% on recent Echocardiogram.
   - Monitor, lasix as needed
   - TTE to evaluate today
   .
   # diabetes mellitus type II:
   - HISS
   .
   # hypertension:  BPs in 110s and stable.
   - hold on antihypertensives at this time
   .
   # goals of care: need to have family meeting once neuro status is more
   clear
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2168-2-16**] 12:49 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2168-02-17 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2168-2-16**] 08:00 AM
 ARTERIAL LINE - START [**2168-2-16**] 08:00 AM
   - heparin IV started yesterday for presumptive in-stent thrombosis
   - pt noted to have respiratory alkalosis yesterday, RR decreased with
   increase in FiO2
   - at 6pm, patient noted to be shivering, elevated BP to systolic 140s.
   Neuromuscular blockade with cisatucurium initiated and sedation
   increased.
   - 7pm BP decreased, 500cc NS bolus given.
   - sedation lightened at that time due to low BP, patient became
   responsive to voice, squeeze hands at command.
   - Head CT showed no evidence of hemorrhage, although possibly decreased
   grey/white matter differentiation.
   - neurology recommended MRI with DWI when able.
   - EEG while paralyzed showed slow rhythm and low voltage
   - Started Rewarming at midnight
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-2-16**] 10:00 AM
   Cisatracurium - [**2168-2-16**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-17**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   HR: 89 (51 - 93) bpm
   BP: 102/50(69) {88/43(61) - 147/69(99)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,145 mL
                                                                    592 mL
   PO:
             TF:
   IVF:
                                                                  2,025 mL
                                                                    592 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                    400 mL
   Urine:
                                                                    490 mL
                                                                    400 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,355 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/41/106/21/-1
   Ve: 9.4 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance:  intubated, mildly sedated
   Eyes / Conjunctiva: Pupils 3mm, minimal response to light
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), difficult to hear, unable
   to hear murmur rub or gallop
   Respiratory / Chest: diffuse, coarse breath sounds and wheezes
   Abdominal: Soft, skin cooler than rest of body
   Extremities: Trace lower extremity edema; DP pulses trace L>R ; warm
   well perfused
   Neurologic:  Opened eyes and squeezed hands to command
   Labs / Radiology
   376 K/uL
   8.8 g/dL
   111 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.3 mEq/L
   29 mg/dL
   106 mEq/L
   137 mEq/L
   26.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2168-2-16**]  01:40 AM
                             [**2168-2-16**]  05:33 AM
                             [**2168-2-16**]  05:57 AM
                             [**2168-2-16**]  12:29 PM
                             [**2168-2-16**]  01:02 PM
                             [**2168-2-16**]  05:15 PM
                             [**2168-2-16**]  11:15 PM
                             [**2168-2-16**]  11:27 PM
                             [**2168-2-17**]  06:15 AM
                             [**2168-2-17**]  06:26 AM
   WBC
   9.8
   7.3
   9.7
   Hct
   25.6
   25.0
   26.8
   Plt
   375
   340
   376
   Cr
   1.1
   1.0
   0.7
   TropT
   0.95
   TCO2
   20
   22
   21
   25
   25
   24
   Glucose
   220
   209
   103
   99
   94
   111
   Other labs: PT / PTT / INR:13.8/50.7/1.2, CK / CKMB /
   Troponin-T:704/29/0.95, Lactic Acid:0.6 mmol/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Imaging: ECHO [**2168-2-16**]:
   The left atrium is mildly dilated. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. There is mild regional
   left ventricular systolic dysfunction with focal hypokinesis of the
   inferolateral wall, and the mid to distal anterolateral wall. The
   remaining segments contract normally. Overall left ventricular systolic
   function is normal (LVEF>55%). Tissue Doppler imaging suggests an
   increased left ventricular filling pressure (PCWP>18mmHg). Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets are moderately thickened. Trace aortic regurgitation is
   seen. The mitral valve leaflets are mildly thickened. Mild to moderate
   mitral regurgitation is seen. There is moderate pulmonary artery
   systolic hypertension. There is no pericardial effusion.
   IMPRESSION: Suboptimal image quality. Mild concentric left ventricular
   hypertrophy. Mild regional left ventricular dysfunction c/w CAD.
   Elevated estimated filling pressures. Mild pulmonary hypertension. Mild
   to moderate mitral regurgitation. Mild aortic stenosis.
   Assessment and Plan
   71-year-old female with a history of diabetes mellitus type II,
   hypertension, is transfered from outside hospital s/p cardiac arrest.
   .
   # S/P Cardiac Arrest:
   Currently hemodynamically stable.  Based on history, appears that
   patient PEA arrested for unclear reasons at Rehab facility and recieved
   4 rounds of Epinephine.  Strips from her arrest are not available.  The
   patient is stable hemodynamically with MAP > 60 and not requiring
   pressors.  The patient has severe 3V CAD that was being considered for
   CABG in the future after pt's spinal stenosis surgery.  Noted to
   squeeze hands to command yesterday evening when sedation was
   lightened.  Had concern for in-stent thrombosis yesterday but appears
   less likely now.  [**Month (only) 11**] have had an arrest from unstable arrhythmia.
   Started re-warming on Arctic sun protocol at midnight, after 24 hrs of
   cooling.
   - f/u EEG results via Neuro
   - Appreciate Neurology Recs
   - Fent/Midaz for sedation
   - heparin gtt
   - monitor for heart block on tele
   - PCI when stable
   .
   # Presumed Sepsis
   In setting of hypothermia, infection likely and blood pressure dropping
   this morning.  Lots of sputum suctioned this AM.
   -          pan-cultured
   -          starting broad spectrum abx
 Vanc/Cefepime
   .
   # Coronary Artery Disease:
   s/p STEMI with cardiac cath with multivessel CAD s/p BMS x 3 to mid to
   distal L circumflex.  Patient is currently HD stable.
   - Continue ASA
   - Continue plavix
   - Continue statin
   - heparin gtt
   .
   # Acute Congestive Heart Failure:
   Slightly volume overloaded on exam, likely from volume resusitation at
   OSH.  TTE shows EF 55% with some focal hypokinesis of inferolateral
   wall
   - Monitor, lasix as needed
   .
   # UTI:
   Positive urine culture with some resistance at outside hospital w no
   evidence that she had yet been started on antibiotics.  Repeat Urine
   culture here pending.
   - start empiric antibiotics
   .
   # diabetes mellitus type II:
   - HISS
   .
   # Hypertension:  BPs in low 100s-110s
   - hold on antihypertensives at this time
   .
   # goals of care: need to have family meeting once neuro status is more
   clear
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2168-2-16**] 12:49 AM
   Arterial Line - [**2168-2-16**] 08:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  CCU

2168-02-18 07:09:00 Physician Resident Progress Note
Chief Complaint: 71-year-old female with a history of diabetes mellitus
   type II, hypertension, is transfered from outside hospital s/p cardiac
   arrest.
   24 Hour Events:
   - R IJ TLC placed
   - started vanc, cefepime, flagyl
   - 2L IVF bolus for low BP - responded
   - temperature to 100.8 - blood cultures sent
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2168-2-17**] 01:28 PM
   Ceftriaxone - [**2168-2-17**] 03:52 PM
   Metronidazole - [**2168-2-17**] 05:00 PM
   Vancomycin - [**2168-2-17**] 10:00 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-2-17**] 10:57 PM
   Fentanyl - [**2168-2-18**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-18**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 112 (79 - 119) bpm
   BP: 78/46(59) {78/44(57) - 138/83(104)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 5 (5 - 18)mmHg
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                  3,741 mL
                                                                    629 mL
   PO:
   TF:
   IVF:
                                                                  3,741 mL
                                                                    629 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    440 mL
   Urine:
                                                                  1,400 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,341 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (0 - 450) mL
   Vt (Spontaneous): 421 (411 - 707) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.48/29/131/22/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 262
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), II/VI systolic murmur at
   base
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : coarse), anterior exam
   Abdominal: Soft, Bowel sounds present, appears nontender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: verbal stimuli, able to move
   hands and toes to command
   Labs / Radiology
   368 K/uL
   8.1 g/dL
   118 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   16 mg/dL
   103 mEq/L
   135 mEq/L
   24.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2168-2-16**]  11:15 PM
                             [**2168-2-16**]  11:27 PM
                             [**2168-2-17**]  06:15 AM
                             [**2168-2-17**]  06:26 AM
                             [**2168-2-17**]  12:00 PM
                             [**2168-2-17**]  05:10 PM
                             [**2168-2-17**]  09:15 PM
                             [**2168-2-17**]  09:22 PM
                             [**2168-2-18**]  05:12 AM
                             [**2168-2-18**]  05:24 AM
   WBC
   7.3
   9.7
   10.0
   Hct
   25.0
   26.8
   24.2
   Plt
   [**Telephone/Fax (3) 11034**]
   Cr
   0.7
   0.8
   0.7
   0.7
   TCO2
   25
   24
   21
   23
   22
   Glucose
   99
   94
   115
   111
   141
   101
   118
   Other labs: PT / PTT / INR:13.4/59.4/1.1, CK / CKMB /
   Troponin-T:427/23/0.95, Lactic Acid:0.6 mmol/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR: ET tube is 5.4 cm from the carina in standard placement.
   Nasogastric tube tip is in stomach. The cardiac mediastinal and hilar
   contours are normal. Left lower lobe atelectasis is improved since
   [**2-16**], [**2168**]. There are no new focal consolidations, pleural effusions, or
   pneumothorax.
   Microbiology: Urine cx pending
   Blood cx pending
   Sputum cx pending
   Assessment and Plan
   71-year-old female with a history of diabetes mellitus type II,
   hypertension, is transfered from outside hospital s/p cardiac arrest.
   .
   # S/P Cardiac Arrest: Appears to have PEA arrest at OSH. 4 rounds of
   ACLS and transferred to [**Hospital1 1**]. Squeezes hands to command. The etiology
   may be secondary to in-stent thrombosis vs unstable arrhythmia. s/p
   Arctic Sun protocol. Patient relatively hemodynamically stable,
   however, post cooling has had periods of hypotension.
   - appeciate neuro recs
   - f/u EEG results
   - continue heparin gtt for now
   - monitor on tele
   - PCI vs CABG when stable
   - discontinue beta blocker due to hypotension - if pressures tolerate
   restart
   .
   # Respiratory status: appears to have been intubated for protection.
   Increased sputum production since then. RSBI 47 and tolerated PS
   relatively well. Has gotten fluids. Retrial this afternoon and consider
   extubation.
   - versed/fentanyl
 limit due to blood pressures (not able to tolerate
   propofol)
   .
   # CAD: s/p STEMI with cardiac cath with multivessel CAD s/p BMS x 3 to
   mid to distal L circumflex. TTE shows EF 55% with some focal
   hypokinesis of inferolateral wall. CVP low to normal.
   - Continue ASA
   - Continue plavix
   - Continue statin
   - heparin gtt
   - discontinue beta blocker due to hypotension - if pressures tolerate
   restart
   .
   # Hypotension: In setting of Arctic Sun protocol, decreased MS, recent
   hospitalization, concerning for infection. Had some hypotension.
   Increased sputum. UA positive at outside hospital without treatment.
   Patient cultured and started on broad spectrum antibiotics.
   - f/u culture results
   - day 2 of broad spectrum abx - vanc, cefepime, flagyl ([**2-8**])
   .
   # DMII:
   - HISS - adjust prn
   .
   # Goals of care: need to have family meeting once patient off sedation
   and neuro status more clear
   ICU Care
   Nutrition: consider TF
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2168-2-16**] 08:00 AM
   Multi Lumen - [**2168-2-17**] 01:26 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing
   Medical Decision Making
   nothing
   Total time spent on patient care: 50 minutes of critical care time.
   Additional comments:
   s/p cardiac arrest
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Last Name (NamePattern1) 3213**], MD
   on:[**2168-2-19**] 08:28 ------

2168-02-19 07:07:00 Physician Resident Progress Note
Chief Complaint: 71-year-old female with a history of diabetes mellitus
   type II, hypertension, is transfered from outside hospital s/p cardiac
   arrest.
   24 Hour Events:
   - extubated yesterday
   - discontinued cefepime/CTX, on vanc/zosyn for GPC and aspiration
   - per family, patient had significant abdominal pain and bloating plus
   nausea just prior to discharge from SS to Rehab (and daughter feels
   they did not do anything about it at [**Hospital6 707**]); possible
   source of an infection or other process that caused PEA arrest?
   - sinus tachycardia - started metoprolol tartrate 25mg [**Hospital1 **] - concerned
   about beta blocker withdrawal. Gave 500cc to see if it would help sinus
   tachycardia (low CVP as well) and following patient developed
   respiratory distress (see below).
   - patient became tachycardic 150s, hypertensive SBP 200, respiratory
   distress/tachypneic RR 40s, wheezing. Gave 40mg IV lasix, 2mg IV
   morphine, nebs treatment, NTG drip, NIPPV, CXR, EKG. Improved with
   NIPPV. Likely pulmonary edema.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2168-2-17**] 01:28 PM
   Ceftriaxone - [**2168-2-18**] 02:03 PM
   Vancomycin - [**2168-2-18**] 10:00 PM
   Metronidazole - [**2168-2-19**] 12:00 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Nitroglycerin - 0.73 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2168-2-18**] 08:10 AM
   Lorazepam (Ativan) - [**2168-2-19**] 01:20 AM
   Furosemide (Lasix) - [**2168-2-19**] 01:30 AM
   Morphine Sulfate - [**2168-2-19**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-19**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 121 (93 - 152) bpm
   BP: 158/79(106) {75/40(-30) - 196/185(190)} mmHg
   RR: 23 (13 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  1,894 mL
                                                                    777 mL
   PO:
   TF:
   IVF:
                                                                  1,894 mL
                                                                    777 mL
   Blood products:
   Total out:
                                                                  2,505 mL
                                                                  1,295 mL
   Urine:
                                                                  2,505 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -611 mL
                                                                   -518 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 550 (325 - 553) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 10 cmH2O
   Plateau: 15 cmH2O
   Compliance: 51.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/30/117/23/1
   Ve: 9.7 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   368 K/uL
   8.2 g/dL
   164 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   104 mEq/L
   137 mEq/L
   24.6 %
   12.1 K/uL
        [image002.jpg]
                             [**2168-2-17**]  09:15 PM
                             [**2168-2-17**]  09:22 PM
                             [**2168-2-18**]  05:12 AM
                             [**2168-2-18**]  05:24 AM
                             [**2168-2-18**]  01:00 PM
                             [**2168-2-18**]  04:52 PM
                             [**2168-2-19**]  01:30 AM
                             [**2168-2-19**]  01:51 AM
                             [**2168-2-19**]  05:47 AM
                             [**2168-2-19**]  06:07 AM
   WBC
   10.0
   12.1
   Hct
   24.2
   24.6
   Plt
   368
   Cr
   0.7
   0.7
   0.7
   TCO2
   23
   22
   23
   21
   21
   19
   23
   Glucose
   101
   118
   164
   Other labs: PT / PTT / INR:15.5/51.7/1.4, CK / CKMB /
   Troponin-T:427/10/0.95, Lactic Acid:0.6 mmol/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR: bilateral edema -  interval worsening -  my read
   Microbiology: sputum culture
 staph aureus
 coag positive
   blood cx pending
   urine cx - yeast
   Assessment and Plan
   71-year-old female with a history of diabetes mellitus type II,
   hypertension, is transfered from outside hospital s/p cardiac arrest
   s/p arctic sun protocol, since extubated, rewarmed
   # Respiratory status: appears to have been intubated for protection.
   Extubated yesterday and tolerated well during the day. Had episode of
   tachypnea, desaturation, tachycardia, hypertension. Likely acute
   pulmonary edema. Was given lasix, morphine, NTG drip. Eventually
   required NIPPV. No back on facetent and saturating well.
   - continue to wean oxygen as tolerated
   - day 3 vanc/flagyl
   - NIPPV as needed
   - incentive spirometry
   - out of bed to chair
   - follow up cultures
   -repeat CXR
   - diurese 500 cc
   # s/p cardiac arrest: Appears to have PEA arrest at OSH. 4 rounds of
   ACLS and transferred to [**Hospital1 1**]. Squeezes hands to command. The etiology
   may be secondary to unstable arrhythmia. s/p Arctic Sun protocol.
   - appeciate neuro recs
   - consider d/cing heparin gtt - no evidence of in stent thrombosis
   - monitor on tele
   - PCI vs CABG when stable
   - beta blocker as tolerated
   # Hypertension: The patient appears to be hypertensive requiring more
   antihypertensives. At home she was on metoprolol, verapamil and
   lisinopril
   - metoprolol tartrate 25mg TID
   - captopril 6.25mg TID
   # Sinus tachycardia: Unclear etiology. [**Month (only) 11**] be secondary to beta blocker
   withdrawal. Does not appear fluid down. Does not appear septic at this
   point. [**Month (only) 11**] have pneumonia? Fluid challenge did not help patient. [**Month (only) 11**]
   have some component of agitation.
   - uptitrate metoprolol tartrate
   - minimize agitation
   # CAD: s/p STEMI with cardiac cath with multivessel CAD s/p BMS x 3 to
   mid to distal L circumflex. TTE shows EF 55% with some focal
   hypokinesis of inferolateral wall which is consistent with priors. CVP
   low to normal.
   - Continue ASA
   - Continue plavix
   - Continue statin
   - beta blocker
   # DMII:
   - HISS - adjust prn
   # Nutrition:
   - speech and swallow eval
   - NPO for now
   # Goals of care: family meeting about future course
   ICU Care
   Nutrition:
   Comments: NPO - speech and swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2168-2-16**] 08:00 AM
   Multi Lumen - [**2168-2-17**] 01:26 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On [**2167-2-19**] I saw, examined and was physically present with the resident
   / fellow for the key portions of the services provided. I agree with
   the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Last Name (NamePattern1) 3213**], MD
   on:[**2168-2-21**] 09:12 ------

2168-02-20 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - given 40 lasix at noon, negative 1L by midnight
   - CXR showed continued vascular engorgement
   - S&S recommended nectar ground diet
   - sputum culture was MRSA positive.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2168-2-17**] 01:28 PM
   Ceftriaxone - [**2168-2-18**] 02:03 PM
   Metronidazole - [**2168-2-19**] 12:00 AM
   Vancomycin - [**2168-2-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2168-2-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-20**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 92 (79 - 116) bpm
   BP: 127/60(85) {98/56(56) - 152/85(109)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 82 kg
   Height: 62 Inch
    CVP: 11 (7 - 11)mmHg
   Total In:
                                                                  2,044 mL
                                                                    135 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,684 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                    415 mL
   Urine:
                                                                  3,085 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,041 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.50/23/91.[**Numeric Identifier **]/28/-2
   PaO2 / FiO2: 184
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   371 K/uL
   8.3 g/dL
   137
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   25.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2168-2-18**]  01:00 PM
                             [**2168-2-18**]  04:52 PM
                             [**2168-2-19**]  01:30 AM
                             [**2168-2-19**]  01:51 AM
                             [**2168-2-19**]  05:47 AM
                             [**2168-2-19**]  06:07 AM
                             [**2168-2-19**]  04:40 PM
                             [**2168-2-19**]  05:56 PM
                             [**2168-2-20**]  03:28 AM
                             [**2168-2-20**]  06:00 AM
   WBC
   12.1
   9.3
   Hct
   24.6
   25.0
   Plt
   432
   371
   Cr
   0.7
   0.8
   TCO2
   23
   21
   21
   19
   23
   27
   19
   Glucose
   164
   123
   137
   Other labs: PT / PTT / INR:14.9/39.3/1.3, CK / CKMB /
   Troponin-T:427/10/0.95, Lactic Acid:0.6 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   71-year-old female with a history of diabetes mellitus type II,
   hypertension, is transfered from outside hospital s/p cardiac arrest
   s/p arctic sun protocol, since extubated, rewarmed
   # Respiratory status: appears to have been intubated for protection.
   Extubated two days ago and tolerated well during the day. Had episode
   of tachypnea, desaturation, tachycardia, hypertension yesterday, likely
   acute pulmonary edema. Was given lasix, morphine, NTG drip. Eventually
   required NIPPV. No back on facetent and saturating well.
   - continue to wean oxygen as tolerated
   - day 4 antibiotics, on vanc/flagyl
   - NIPPV as needed
   - incentive spirometry
   - out of bed to chair
   - follow up cultures
   -repeat CXR
   - diurese 500 cc
   # s/p cardiac arrest: Appears to have PEA arrest at OSH. 4 rounds of
   ACLS and transferred to [**Hospital1 1**]. Squeezes hands to command. The etiology
   may be secondary to unstable arrhythmia. s/p Arctic Sun protocol.
   - appeciate neuro recs
   - consider d/cing heparin gtt - no evidence of in stent thrombosis
   - monitor on tele
   - PCI vs CABG when stable
   - beta blocker as tolerated
   # Hypertension: The patient appears to be hypertensive requiring more
   antihypertensives. At home she was on metoprolol, verapamil and
   lisinopril
   - metoprolol tartrate 25mg TID
   - captopril 6.25mg TID
   # Sinus tachycardia: Unclear etiology. [**Month (only) 11**] be secondary to beta blocker
   withdrawal. Does not appear fluid down. Does not appear septic at this
   point. [**Month (only) 11**] have pneumonia? Fluid challenge did not help patient. [**Month (only) 11**]
   have some component of agitation.
   - uptitrate metoprolol tartrate
   - minimize agitation
   # CAD: s/p STEMI with cardiac cath with multivessel CAD s/p BMS x 3 to
   mid to distal L circumflex. TTE shows EF 55% with some focal
   hypokinesis of inferolateral wall which is consistent with priors. CVP
   low to normal.
   - Continue ASA, plavix, statin
   - beta blocker
   # DMII:
   - HISS - adjust prn
   # Nutrition:
   - speech and swallow eval
   - NPO for now
   # Goals of care: family meeting about future course
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2168-2-16**] 08:00 AM
   Multi Lumen - [**2168-2-17**] 01:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2168-02-20 13:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - given 40 lasix yesterday, negative 1L by midnight
   - CXR showed continued vascular engorgement yesterday
   - S&S recommended nectar ground diet
   - sputum culture was MRSA positive.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2168-2-17**] 01:28 PM
   Ceftriaxone - [**2168-2-18**] 02:03 PM
   Metronidazole - [**2168-2-19**] 12:00 AM
   Vancomycin - [**2168-2-20**] 08:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-20**] 01:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 98 (79 - 107) bpm
   BP: 116/61(74) {102/61(74) - 116/82(86)} mmHg
   RR: 16 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 82 kg
   Height: 62 Inch
             Total In:
                                                                  2,044 mL
                                                                    634 mL
   PO:
                                                                    360 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,684 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                    545 mL
   Urine:
                                                                  3,085 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,041 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.50/23/91.[**Numeric Identifier **]/28/-2
   PaO2 / FiO2: 184
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   371 K/uL
   8.3 g/dL
   137
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   25.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2168-2-18**]  01:00 PM
                             [**2168-2-18**]  04:52 PM
                             [**2168-2-19**]  01:30 AM
                             [**2168-2-19**]  01:51 AM
                             [**2168-2-19**]  05:47 AM
                             [**2168-2-19**]  06:07 AM
                             [**2168-2-19**]  04:40 PM
                             [**2168-2-19**]  05:56 PM
                             [**2168-2-20**]  03:28 AM
                             [**2168-2-20**]  06:00 AM
   WBC
   12.1
   9.3
   Hct
   24.6
   25.0
   Plt
   432
   371
   Cr
   0.7
   0.8
   TCO2
   23
   21
   21
   19
   23
   27
   19
   Glucose
   164
   123
   137
   Other labs: PT / PTT / INR:14.9/39.3/1.3, CK / CKMB /
   Troponin-T:427/10/0.95, Lactic Acid:0.6 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   71-year-old female with a history of diabetes mellitus type II,
   hypertension, is transfered from outside hospital s/p cardiac arrest
   s/p arctic sun protocol, since extubated, rewarmed
   # Respiratory status:
   MRSA sputum culture positive, being treated for pneumonia. CXR
   improved, bilateral effusions smaller than yesterday and rest of lungs
   clear.  Extubated succesfully two days ago with an episode of acute
   pulmonary edema afterwards requiring non-invasive positive pressure
   ventilation.  Stable on 3L O2 NC this AM.  Continues to have cough.
   - continue to wean oxygen as tolerated
   - day 4 antibiotics ; continue Vancomycin for [**7-9**] day course ; DCed
   ceftriaxone and flagyl
   - incentive spirometry
   - out of bed to chair
   - follow up cultures
   # s/p PEA arrest:
   PEA arrest of unknown etiology. 4 rounds of ACLS and transferred to
   [**Hospital1 1**].  The etiology may be secondary to unstable arrhythmia or
   infection. s/p Arctic Sun protocol.
   - monitor on tele
   - Cardiac Catheterization to evaluate for ischemic cause in setting of
   significant CAD history, likely Cath Monday
   - beta blocker as tolerated
   # Hypertension:
   Blood pressures stable, low normal.  At home she was on metoprolol,
   verapamil and lisinopril.
   - metoprolol tartrate 25mg TID
   - captopril 6.25mg TID ; can switch back to home lisinopril
   # Sinus tachycardia:
   Unclear etiology. [**Month (only) 11**] be secondary to beta blocker withdrawal. Does not
   appear fluid down. Does not appear septic anymore.  [**Month (only) 11**] be associated
   with anxiety or pain from right leg.
   - uptitrate metoprolol tartrate
   - minimize agitation
   - pain control
   # CAD: s/p STEMI with cardiac cath with multivessel CAD s/p BMS x 3 to
   mid to distal L circumflex in past. TTE shows EF 55% with some focal
   hypokinesis of inferolateral wall which is consistent with priors. CVP
   low to normal.
   - Continue ASA, plavix, statin, beta blocker
   - NPO p MN Sunday night for Cath on Monday
   # DMII:
   - HISS - adjust prn
   # Nutrition:
   - speech and swallow eval recommended ground solids and nectar
   prethickened liquids
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-2-17**] 01:26 PM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:  po famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  CCU
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the progress note history and physical examination on
   [**2168-2-20**] by Dr. [**Last Name (STitle) 8562**] noted above.  I was present during the
   pertinent portions of the physical examination today.   I concur with
   the diagnostic evaluation and treatment plan outlined above.
   Approximately 50% allocated time involved coordination of care.
   MEDICAL DECISION MAKING.  This 71year old woman with known CAD and a
   prior BMS to the left circumflex presented with an out-of-hospital
   PEA.   Her downtime was relatively brief and the [**Name (NI) 11096**] Sun protocol for
   cerebral protection was implemented.   She has made a marked recovery
   in her cognitive function.  There is no evidence of a recent MI by
   biomarkers.  She has not had recurrent chest pain.  She has been
   started on a beta blocker and will transition over to an ACE.
   ASSESSMENT:  3 Vessel Coronary Artery Disease with Prior BMS to the LCx
                                s/p PEA cardiac arrest
   PLAN:                     CCU monitoring for recurrent arrhytmias
                                   Cardiac catheterization Monday to
   assess coronary anatomy
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD  [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2168-2-20**] 15:43 ------

2168-02-21 06:07:00 Physician Resident Progress Note
Chief Complaint: 71-year-old female with a history of diabetes mellitus
   type II, hypertension, is transfered from outside hospital s/p cardiac
   arrest s/p arctic sun protocol, since extubated, rewarmed
   24 Hour Events:
 ARTERIAL LINE - STOP [**2168-2-20**] 11:01 AM
   - occas spasm pain for which she has taken valium at OSH in past ; also
   has occas sharp shooting right leg pain --> started Gabapentin 300mg
   QHS
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-2-18**] 02:03 PM
   Metronidazole - [**2168-2-19**] 12:00 AM
   Vancomycin - [**2168-2-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-21**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 99 (79 - 109) bpm
   BP: 97/40(53) {97/40(53) - 133/105(91)} mmHg
   RR: 20 (16 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 82 kg
   Height: 62 Inch
             Total In:
                                                                  1,110 mL
                                                                     60 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    690 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    400 mL
   Urine:
                                                                    940 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   396 K/uL
   8.0 g/dL
   129 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   24.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2168-2-18**]  04:52 PM
                             [**2168-2-19**]  01:30 AM
                             [**2168-2-19**]  01:51 AM
                             [**2168-2-19**]  05:47 AM
                             [**2168-2-19**]  06:07 AM
                             [**2168-2-19**]  04:40 PM
                             [**2168-2-19**]  05:56 PM
                             [**2168-2-20**]  03:28 AM
                             [**2168-2-20**]  06:00 AM
                             [**2168-2-21**]  04:26 AM
   WBC
   12.1
   9.3
   7.5
   Hct
   24.6
   25.0
   24.7
   Plt
   [**Telephone/Fax (3) 11102**]
   Cr
   0.7
   0.8
   0.8
   TCO2
   21
   21
   19
   23
   27
   19
   Glucose
   164
   123
   137
   129
   Other labs: PT / PTT / INR:14.4/38.4/1.2, CK / CKMB /
   Troponin-T:427/10/0.95, Lactic Acid:0.6 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR:  One view. Comparison with the previous study of [**2168-2-19**].
   Bilateral pleural effusions and increased density at the left base
   consistent with atelectasis or consolidation persist. The heart and
   mediastinal structures are unchanged. A right internal jugular catheter
   remains in place. IMPRESSION: No significant notable change.
   Microbiology: Blood cx pending
   Assessment and Plan
   71-year-old female with a history of diabetes mellitus type II,
   hypertension, is transfered from outside hospital s/p cardiac arrest
   s/p arctic sun protocol, since extubated, rewarmed
   # Respiratory status:
   MRSA sputum culture positive, being treated for pneumonia. CXR
   improved, bilateral effusions smaller than yesterday and rest of lungs
   clear.  Extubated succesfully two days ago with an episode of acute
   pulmonary edema afterwards requiring non-invasive positive pressure
   ventilation.  Stable on 3L O2 NC this AM.  Continues to have cough.
   - continue to wean oxygen as tolerated
   - day 5 antibiotics ; continue Vancomycin for [**7-9**] day course ; DCed
   ceftriaxone and flagyl
   - incentive spirometry
   - out of bed to chair
   - follow up cultures
   # s/p PEA arrest:
   PEA arrest of unknown etiology. 4 rounds of ACLS and transferred to
   [**Hospital1 1**].  The etiology may be secondary to unstable arrhythmia or
   infection. s/p Arctic Sun protocol.
   - monitor on tele
   - Cardiac Catheterization to evaluate for ischemic cause in setting of
   significant CAD history, likely Cath Monday
   - beta blocker as tolerated
   # Hypertension:
   Blood pressures stable, low normal.  At home she was on metoprolol,
   verapamil and lisinopril.
   - metoprolol tartrate 25mg TID
   - lisinopril
   # Sinus tachycardia:
   Unclear etiology. [**Month (only) 11**] be secondary to beta blocker withdrawal. Does not
   appear fluid down. Does not appear septic anymore.  [**Month (only) 11**] be associated
   with anxiety or pain from right leg.
   - uptitrate metoprolol tartrate
   - minimize agitation
   - pain control
   # CAD: s/p STEMI with cardiac cath with multivessel CAD s/p BMS x 3 to
   mid to distal L circumflex in past. TTE shows EF 55% with some focal
   hypokinesis of inferolateral wall which is consistent with priors. CVP
   low to normal.
   - Continue ASA, plavix, statin, beta blocker
   - NPO p MN Sunday night for Cath on Monday
   # DMII:
   - HISS - adjust prn
   # Nutrition:
   - speech and swallow eval recommended ground solids and nectar
   prethickened liquids
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-2-17**] 01:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On [**2168-2-21**], I examined and was physically present with the resident /
   fellow for the key portions of the services provided. I agree with the
   above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 50 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Last Name (NamePattern1) 3213**], MD
   on:[**2168-2-22**] 08:39 ------

2168-02-22 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2168-2-21**] 08:46 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2168-2-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-2-22**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-22**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 95 (83 - 107) bpm
   BP: 103/56(66) {84/43(39) - 141/96(100)} mmHg
   RR: 22 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 82 kg
   Height: 62 Inch
             Total In:
                                                                  1,890 mL
                                                                    665 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                    690 mL
                                                                    665 mL
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                    790 mL
   Urine:
                                                                  1,315 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    575 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   366 K/uL
   8.0 g/dL
   190 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.7 mEq/L
   12 mg/dL
   104 mEq/L
   139 mEq/L
   24.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2168-2-19**]  01:30 AM
                             [**2168-2-19**]  01:51 AM
                             [**2168-2-19**]  05:47 AM
                             [**2168-2-19**]  06:07 AM
                             [**2168-2-19**]  04:40 PM
                             [**2168-2-19**]  05:56 PM
                             [**2168-2-20**]  03:28 AM
                             [**2168-2-20**]  06:00 AM
                             [**2168-2-21**]  04:26 AM
                             [**2168-2-22**]  03:04 AM
   WBC
   12.1
   9.3
   7.5
   7.2
   Hct
   24.6
   25.0
   24.7
   24.8
   Plt
   [**Telephone/Fax (3) 11119**]66
   Cr
   0.7
   0.8
   0.8
   0.7
   TCO2
   21
   19
   23
   27
   19
   Glucose
   164
   123
   137
   129
   190
   Other labs: PT / PTT / INR:14.7/43.9/1.3, CK / CKMB /
   Troponin-T:427/10/0.95, Lactic Acid:0.6 mmol/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Imaging: [**2-20**]: CXR CHF, evaluate for edema.
   One view. Comparison with the previous study of [**2168-2-19**]. Bilateral
   pleural
   effusions and increased density at the left base consistent with
   atelectasis
   or consolidation persist. The heart and mediastinal structures are
   unchanged.
   A right internal jugular catheter remains in place.
   IMPRESSION: No significant notable change.
   Microbiology: Urine: yeast
   Sputum CX: MRSA
   Bld cx: ngtd
   Assessment and Plan
   71-year-old female with a history of diabetes mellitus type II,
   hypertension, is transfered from outside hospital s/p cardiac arrest
   s/p arctic sun protocol, since extubated, rewarmed.
   # Respiratory status:
   MRSA sputum culture positive, being treated for pneumonia. CXR
   improved, bilateral effusions smaller than yesterday and rest of lungs
   clear.  Extubated succesfully two days ago with an episode of acute
   pulmonary edema afterwards requiring non-invasive positive pressure
   ventilation.  Stable on 3L O2 NC this AM.  Continues to have cough.
   - continue to wean oxygen as tolerated
   - day 6 antibiotics ; continue Vancomycin for [**7-9**] day course ; DCed
   ceftriaxone and flagyl
   - incentive spirometry
   - out of bed to chair
   - follow up cultures
   - try for net even fluid status today.
   # s/p PEA arrest:
   PEA arrest of unknown etiology. 4 rounds of ACLS and transferred to
   [**Hospital1 1**].  The etiology may be secondary to unstable arrhythmia or
   infection. s/p Arctic Sun protocol.
   - monitor on tele
   - Cardiac Catheterization to evaluate for ischemic cause in setting of
   significant CAD history today.
   - beta blocker as tolerated
   # Hypertension:
   Blood pressures stable, low normal.  At home she was on metoprolol,
   verapamil and lisinopril.
   - metoprolol tartrate 25mg TID
   - lisinopril
   # Sinus tachycardia:
   Unclear etiology. [**Month (only) 11**] be secondary to beta blocker withdrawal. Does not
   appear fluid down. Does not appear septic anymore.  [**Month (only) 11**] be associated
   with anxiety or pain from right leg.
   - uptitrate metoprolol tartrate
   - minimize agitation
   - pain control
   # CAD: s/p STEMI with cardiac cath with multivessel CAD s/p BMS x 3 to
   mid to distal L circumflex in past. TTE shows EF 55% with some focal
   hypokinesis of inferolateral wall which is consistent with priors. CVP
   low to normal.
   -          Continue ASA, plavix, statin, beta blocker
   -
   # DMII:
   - HISS - adjust prn
   # Nutrition:
   - speech and swallow eval recommended ground solids and nectar
   prethickened liquids
   ICU Care
   Nutrition: diabetic, cardiac diet
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2168-2-17**] 01:26 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: floor after catherization.